US09079853B2
5,7-dichloro-1-propylindoline-2,3-dione
Was made in an analogous fashion to 1-propylindoline-2,3-dione using 5,7-dichloroisatin (purchased from Fisher Scientific) and 1-bromopropane (purchased from Fisher Scientific). 1H NMR δ 7.53 (d, 1H), 7.51 (d, 1H), 4.05 (t, 2H), 1.78 (m, 2H), 0.99 (t, 3H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5,7-dichloroisatin | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)=O | C8H3Cl2NO2
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 5,7-dichloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=C(C1)Cl)CCC)=O)=O | C11H9Cl2NO2
